US04021461
To a solution of 4.15 g. of 3,7,11-trimethyldodeca-2,4-dienoic acid in 100 ml. of dry benzene, under nitrogen, is added 5.1 ml. of oxalyl chloride. After 2 hours, solvent is removed under reduced pressure and 100 ml. of fresh dry benzene and 6.4 ml. of dry isobutyl alcohol is added. The reaction mixture is concentrated and the concentrate is stirred over 20 g. of activated alumina in pentane for 0.5 hr. and filtered. The filtrate is washed, dried and evaporated under reduced pressure to give isobutyl 3,7,11-trimethyldodeca-2,4-dienoate which can be purified by distillation.

reactant | 3,7,11-trimethyldodeca-2,4-dienoic acid | CC(=CC(=O)O)C=CCC(CCCC(C)C)C | C15H26O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | isobutyl 3,7,11-trimethyldodeca-2,4-dienoate | CC(=CC(=O)OCC(C)C)C=CCC(CCCC(C)C)C | C19H34O2
